2201-07-15 00:20:00 Physician Attending Progress Note
Chief Complaint: hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83W 1 week h/o cough, recently completed azithro then given another
   abx. Today, developed confusion and vomiting. In ER stable though
   tachycardic and Pox 90% RA. Code stroke called and head CT negative.
   Sodium found to be 95. CXR with infiltrate and given abx. Renal
   recommended hypertonic saline. EKG showed ST elevations anteriorly,
   troponin .15. She takes avalide for HTN which is [**First Name8 (NamePattern2) **] [**Last Name (un) 284**] and HCTZ.
   24 Hour Events:
   History obtained from HO
   Patient unable to provide history: sleepy
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   HTN
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Cough
   Gastrointestinal: Emesis
   Flowsheet Data as of  [**2201-7-15**] 12:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 111 (111 - 114) bpm
   BP: 106/57(69) {106/57(69) - 113/67(76)} mmHg
   RR: 28 (27 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,191 mL
                  PO:
                  TF:
   IVF:
                                                                     41 mL
   Blood products:
   Total out:
                                                                    565 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    626 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: 5 L NC
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Extremities: Right: Absent, Left: Absent, edema
   Skin:  Not assessed
   Neurologic: sleepy but responds to simple questions
   Labs / Radiology
   854
   0.6
   14
   96
   31
   10
        [image002.jpg]
   Other labs: CK / CKMB / Troponin-T://.15, Differential-Neuts:90
   Fluid analysis / Other labs: sOsm 213
   uOsm 382
   uNa 63
   Imaging: CXR stable RUL infiltrate, worse bibasilar infiltrates
   EKG ST elevations V3-4
   Assessment and Plan
   Hyponatremia
 seems euvolemic to hypovolemic, suspect related to HCTZ
   and SIADH from respiratory infection. Will also work-up adrenal
   insufficiency. Continue hypertonic saline and follow Na every 2 hours -
   no urgency to correct in light of clinical stability.
   Altered mental status
 likely related to hyponatremia, will follow
   pneumonia - will treat with levoflox, follow micro eval
   EKG abnormalities - follow enzymes, cards involved - suspect metabolic,
   has received ASA
   HTN - hold antihypertensives
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-7-14**] 10:45 PM
   18 Gauge - [**2201-7-14**] 10:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2201-07-17 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hapto and Tbili nl. Hct 27 when rechecked.
   - SBP dropped to 70 when sat upright and asleep. Improved when back in
   bed. SBP increased to 120s.
   - Seen by Cards for Takasubos; recommended starting heparin gtt due to
   high risk of thrombus.
   - HR rising with decrease in BP, EKG showed Afib w/ RVR. Started on
   amio gtt. Received 250cc bolus. HR improved to low 100s.
   - BP drop to MAP in 40s with SBP 70s while lying down. Mentating well
   but started on neo as MAP persistently <60 despite 500cc IVF boluses x
   3. Unable to place a-line for improved BP monitoring.
   - Restarted hypertonic saline as downtrending in setting of NS boluses.
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Pletal (Oral) (Cilostazol)
   Unknown;
   Biaxin (Oral) (Clarithromycin)
   Unknown;
   [**Doctor First Name 1506**] (Oral) (Fexofenadine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2201-7-15**] 09:00 AM
   Ampicillin - [**2201-7-16**] 10:00 AM
   Vancomycin - [**2201-7-16**] 08:45 PM
   Ampicillin/Sulbactam (Unasyn) - [**2201-7-17**] 04:00 AM
   Infusions:
   Heparin [**Year (4 digits) **] - 300 units/hour
   Amiodarone - 0.5 mg/min
   Phenylephrine - 1.9 mcg/Kg/min
   Other ICU medications:
   Heparin [**Year (4 digits) **] (Prophylaxis) - [**2201-7-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-17**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.7
C (96.2
   HR: 78 (68 - 120) bpm
   BP: 94/45(56) {79/36(51) - 131/70(83)} mmHg
   RR: 17 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 9 (0 - 19)mmHg
   Total In:
                                                                  2,605 mL
                                                                    671 mL
   PO:
                                                                    410 mL
   TF:
   IVF:
                                                                  2,195 mL
                                                                    671 mL
   Blood products:
   Total out:
                                                                    287 mL
                                                                     69 mL
   Urine:
                                                                    287 mL
                                                                     69 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,318 mL
                                                                    602 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   GEN: NAD
   HEENT: NC/AT dry MM
   LUNGS: Decreased BS bilaterally with fine crackles at the bases
   HEART: Irregularly irregular
   ABD: Soft. NT/ND
   EXTREM: Tr edema, very cold while on neo
   NEURO: A+OX3
   Labs / Radiology
   645 K/uL
   8.8 g/dL
   139 mg/dL
   0.9 mg/dL
   18 mEq/L
   4.9 mEq/L
   24 mg/dL
   88 mEq/L
   114 mEq/L
   25.5 %
   14.8 K/uL
        [image002.jpg]
                             [**2201-7-14**]  11:04 PM
                             [**2201-7-15**]  02:54 AM
                             [**2201-7-15**]  04:41 AM
                             [**2201-7-15**]  09:58 AM
                             [**2201-7-15**]  04:05 PM
                             [**2201-7-16**]  03:06 AM
                             [**2201-7-16**]  12:19 PM
                             [**2201-7-17**]  03:57 AM
   WBC
   14.1
   20.8
   14.8
   Hct
   29.0
   24.1
   27.0
   25.5
   Plt
   789
   648
   645
   Cr
   0.7
   0.6
   0.7
   0.9
   TropT
   0.49
   0.47
   0.32
   0.22
   Glucose
   [**Telephone/Fax (3) 6766**]39
   Other labs: PT / PTT / INR:16.3/103.7/1.4, CK / CKMB /
   Troponin-T:180/14/0.22, ALT / AST:28/37, Alk Phos / T Bili:58/0.2,
   Differential-Neuts:93.5 %, Lymph:1.9 %, Mono:4.5 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   BNP 29,691
   Blood cultures pending
   Urine culture negative
   Assessment and Plan
   83 yo F with critical hyponatremia, multifocal pna and takotsubos
   cardiomyopathy.
   #  Hyponatremia. Improved through the day yesterday and off hypertonic
   saline but after fluid boluses (See below) did back track a little so
   back on hypertonic saline.
   - Appreciate Renal input; f/u recs
   - 3% saline at 25 ml/hour given ideal body weight with q 4 hours [**Telephone/Fax (3) 6715**]
   checks with target 120 at midnight
   - if seizes, ativan, then bolus of 100cc of 3% saline
   - TSH wnl but cortisol still pending
   - holding home HCTZ
   # Hypotension/a-fib with RVR: In setting of tachycardia/afib->likely HR
   related and cardiogenic. Now on Neo.
   - Transition to amio PO
   - Started on hep gtt per cards recs and will eventually need coumadin
   as high risk for clot given cardiomyopathy
   - Not responsive to IVF boluses and led to decreased Na so using
   pressors instead.
   - Attempt to wean pressors today and control HR with amio
   # Systolic CHF-> likely Takutsubos. BNP 29K
   - Would benefit from beta blocker and ace inhibitor but will hold for
   now given hypotension and renal issues
   - Monitor on tele
   - Aspirin 325 daily
   - Appreciate cards recs. Will follow up with Dr. [**First Name (STitle) **] one month after
   d/c.
   # ARF: Oliguric and Cr trending up to 0.9 in small elderly female.
   - has been given lasix -> f/u UOP
   - appreciate renal recs
   - address hypotension/CHF as above
   # Leukocytosis: neutrophil-predominant. Trending down today. Blood
   cultures pending.  Flu swab negative.  Urine culture negative.
   - Check Cdiff
   - culture if spikes
   - Consider bronch for atypical-looking multifocal pneumonia
   # Hypoxia: Not on home O2. CT Chest showed advanced multifocal pna and
   TTE showed takutsubos so likely multifactorial hypoxia.
   - Lasix x 1 now and see if UOP responds..
   - Consider bronch when other above issues resolving
   - Added atrovent
   - attempt to send Sputum cx
   - Wean O2 as possible
   - On vanc/unasyn (day 3)
   # Anemia: Hct from 30->24->27->25.5 after fluid resuscitation. Likely
   dilutional
   - work up for hemolysis neg
   - Guaiac stools as on heparin
   - Cycle hct daily
   - Transfuse for <21
   # Mental Status Change: Resolving with correction of hyponatremia. Head
   CT neg in ED.
   - Follow MS [**First Name (Titles) **] [**Last Name (Titles) 6715**] improves
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:  HISS
   Lines:
   20 Gauge - [**2201-7-14**] 10:45 PM
   18 Gauge - [**2201-7-14**] 10:45 PM
   Multi Lumen - [**2201-7-15**] 12:29 AM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer: H2 blocker
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU while on pressors

2201-07-18 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2201-7-17**] 10:15 PM
 MULTI LUMEN - STOP [**2201-7-18**] 12:15 AM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2201-7-18**]
   12:15 AM
   Central line pulled off by the patient.
 MULTI LUMEN - START [**2201-7-18**] 03:08 AM
   [**7-17**]
   - She had worsening mental status and increasing pressor requirement
   during the day.
   - Renal recommended lasix.  She was given 1 dose without much UOP.  We
   felt she was clinically dry and so continued the hypertonic saline.
   - A-line was attempted several times unsuccessfully.
   - Patient pulled CVL out at 0030 with moderate amount of bleeding.  Hct
   was stable.  Placed L IJ without complication.
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Pletal (Oral) (Cilostazol)
   Unknown;
   Biaxin (Oral) (Clarithromycin)
   Unknown;
   [**Doctor First Name 1506**] (Oral) (Fexofenadine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2201-7-15**] 09:00 AM
   Ampicillin - [**2201-7-16**] 10:00 AM
   Vancomycin - [**2201-7-17**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2201-7-18**] 05:00 AM
   Infusions:
   Phenylephrine - 1.9 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-18**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 75 (59 - 107) bpm
   BP: 116/56(71) {70/11(33) - 129/82(91)} mmHg
   RR: 14 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (8 - 11)mmHg
   Total In:
                                                                  2,463 mL
                                                                    330 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                  2,103 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                    323 mL
                                                                    115 mL
   Urine:
                                                                    323 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,140 mL
                                                                    215 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   GEN: NAD
   HEENT: NC/AT dry MM
   LUNGS: Decreased BS bilaterally with fine crackles at the bases
   HEART: RRR, no M/R/G
   ABD: Soft. NT/ND
   EXTREM: Tr edema, very cold while on neo
   NEURO: A+OX1-2
   Labs / Radiology
   363 K/uL
   7.9 g/dL
   119 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   32 mg/dL
   93 mEq/L
   120 mEq/L
   23.0 %
   23.1 K/uL
        [image002.jpg]
                             [**2201-7-15**]  02:54 AM
                             [**2201-7-15**]  04:41 AM
                             [**2201-7-15**]  09:58 AM
                             [**2201-7-15**]  04:05 PM
                             [**2201-7-16**]  03:06 AM
                             [**2201-7-16**]  12:19 PM
                             [**2201-7-17**]  03:57 AM
                             [**2201-7-17**]  05:00 PM
                             [**2201-7-18**]  12:21 AM
                             [**2201-7-18**]  03:09 AM
   WBC
   14.1
   20.8
   14.8
   23.1
   Hct
   29.0
   24.1
   27.0
   25.5
   24.5
   25.0
   23.0
   Plt
   789
   648
   645
   363
   Cr
   0.6
   0.7
   0.9
   1.4
   TropT
   0.47
   0.32
   0.22
   Glucose
   133
   108
   139
   119
   Other labs: PT / PTT / INR:29.3/51.3/2.9, CK / CKMB /
   Troponin-T:180/14/0.22, ALT / AST:8645/[**Numeric Identifier 6783**], Alk Phos / T
   Bili:143/0.5, Differential-Neuts:93.5 %, Lymph:1.9 %, Mono:4.5 %,
   Eos:0.1 %, Fibrinogen:420 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:[**Numeric Identifier 6784**] IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   83 yo F with critical hyponatremia, multifocal pna and takotsubos
   cardiomyopathy.
   #  Hyponatremia. Likely from a combination of pneumonia with SIADH and
   heart failure.
   - Appreciate Renal input; f/u recs
   - 3% saline now d/c
d as at goal of >120
   - TSH wnl, and cortisol appropriately elevated
   - holding home HCTZ
   - Q4H sodiums
   # Shock: With decreased CVsat and non-responsiveness to IVF likely
   cardiogenic. Now on Neo with increasing requirements during the day but
   decreasing overnight. Did not respond to lasix although has ARF likely
   from ATN from hypotension.
   - d/c amio given shock liver
   - hep gtt recommended by cards as high risk for clot given
   cardiomyopathy, but given coagulopathy we held heparin
   - Not responsive to IVF boluses and led to decreased Na so using
   pressors instead.
   - Attempt to wean pressors today as able
   - [**Month (only) 11**] try vasopressin
   - goal MAP of 65.
   # Transaminitis: Likely shock liver from hypotension.
   - d/c amio and other hepatotoxic meds.
   - send hepatitis viral studies
   - also has atypical appearing multifocal pna on CT and may have CMV/EBV
   - Monitor LFTs
   - Treat hypotension with pressors as above
   - RUQ U/S to ensure vessels patent
   # ARF: Oliguric and Cr trending up to 1.4. Likely from hypotension.
   - not responsive to 20mg IV lasix. Will attempt higher dose today and
   consider lasix gtt. If unable to produce urine and having volume
   overload issues or electrolyte imbalance may consider CVVH
   - appreciate renal recs
   - address hypotension/CHF as above
   # Mental Status Change: Likely multifactorial [**3-2**] to hepatic
   encephalopathy and ICU delirium. Doubt hyponatremia as contributor
   given that with lower sodiums she was mentating better.
   - Restraints PRN
   - Haldol PRN
   - Consider lactulose as she is not stooling
   # Leukocytosis: Previously neutrophil-predominant. Blood cultures
   pending.  Flu swab negative.  Urine culture negative.
   - Check Cdiff
   - culture if spikes
   - Consider bronch for atypical-looking multifocal pneumonia
   - Consider CMV/EBV as above for transaminitis
   - Continue broad spectrum abx coverage with vanc/zosyn although vanc
   level high today so no need for dose today
   # Systolic CHF-> likely Takutsubos. BNP 29K
   - Would benefit from beta blocker and ace inhibitor but will hold for
   now given hypotension and renal issues
   - Monitor on tele
   - Aspirin 325 daily and hep gtt for risk of clot
   - Cannot tolerate dopa/dobutamine as can cause LVOT obstruction with
   apical ballooning in takotsubos so on neo instead.
   - Appreciate cards recs. Will follow up with Dr. [**First Name (STitle) **] one month after
   d/c.
   # Hypoxia: CT Chest showed advanced multifocal pna and TTE showed
   takutsubos so likely multifactorial hypoxia. Now resolving.
   - VBG with lactate today
   - Consider bronch
   - Added atrovent
   - attempt to send Sputum cx
   - Wean O2 as possible
   - On vanc/unasyn (day [**4-4**]): Vanc level high this am so hold am dose.
   Check level tomorrow before dosing.
   # Anemia: Hct from 30->24->27->25.5->23 after fluid resuscitation.
   Likely dilutional
   - repeat hemolysis labs and coags
   - Guaiac stools as on heparin
   - Cycle hct daily
   - Transfuse for <21
   ICU Care
   Nutrition: Diabetic/ 1.5L fluid restriction
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2201-7-14**] 10:45 PM
   Multi Lumen - [**2201-7-18**] 03:08 AM
   Prophylaxis:
   DVT:pneumoboots
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2201-07-18 08:58:00 Physician Attending Progress Note
Chief Complaint: PNA, hypotension, hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Yesterday w/ worsening mental status and inc pressor req.
   Lasix without good urine outpt
   kept on hypertonic saline
   She pulled out her IJ at MN, left replaced
   LFTs 8,00-10,00 w elevated LDH
   3% saline off at MN
   24 Hour Events:
 SPUTUM CULTURE - At [**2201-7-17**] 10:15 PM
 MULTI LUMEN - STOP [**2201-7-18**] 12:15 AM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2201-7-18**]
   12:15 AM
   Central line pulled off by the patient.
 MULTI LUMEN - START [**2201-7-18**] 03:08 AM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Pletal (Oral) (Cilostazol)
   Unknown;
   Biaxin (Oral) (Clarithromycin)
   Unknown;
   [**Doctor First Name 1506**] (Oral) (Fexofenadine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2201-7-15**] 09:00 AM
   Ampicillin - [**2201-7-16**] 10:00 AM
   Vancomycin - [**2201-7-17**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2201-7-18**] 05:00 AM
   Infusions:
   3% NaCl
   Famotidine
   ASA, Atrovent, Tessalon,
   Other ICU medications:
   Neo 1.4
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-18**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 93 (59 - 107) bpm
   BP: 140/67(85) {70/11(33) - 140/82(91)} mmHg
   RR: 34 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (8 - 11)mmHg
   Total In:
                                                                  2,463 mL
                                                                    392 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                  2,103 mL
                                                                    392 mL
   Blood products:
   Total out:
                                                                    323 mL
                                                                    160 mL
   Urine:
                                                                    323 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,140 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Gen: think elderly woman in NAD, somnolent
   CV: RR
   Chest: [**Month (only) 202**] BS bases, no wheeze
   Abd: soft no RUQ tenderness
   Ext: trace edema
   Labs / Radiology
   7.9 g/dL
   363 K/uL
   119 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   32 mg/dL
   93 mEq/L
   120 mEq/L
   23.0 %
   23.1 K/uL
        [image002.jpg]
                             [**2201-7-15**]  02:54 AM
                             [**2201-7-15**]  04:41 AM
                             [**2201-7-15**]  09:58 AM
                             [**2201-7-15**]  04:05 PM
                             [**2201-7-16**]  03:06 AM
                             [**2201-7-16**]  12:19 PM
                             [**2201-7-17**]  03:57 AM
                             [**2201-7-17**]  05:00 PM
                             [**2201-7-18**]  12:21 AM
                             [**2201-7-18**]  03:09 AM
   WBC
   14.1
   20.8
   14.8
   23.1
   Hct
   29.0
   24.1
   27.0
   25.5
   24.5
   25.0
   23.0
   Plt
   789
   648
   645
   363
   Cr
   0.6
   0.7
   0.9
   1.4
   TropT
   0.47
   0.32
   0.22
   Glucose
   133
   108
   139
   119
   Other labs: PT / PTT / INR:29.3/51.3/2.9, CK / CKMB /
   Troponin-T:180/14/0.22, ALT / AST:8645/[**Numeric Identifier 6783**], Alk Phos / T
   Bili:143/0.5, Differential-Neuts:93.5 %, Lymph:1.9 %, Mono:4.5 %,
   Eos:0.1 %, Fibrinogen:420 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:[**Numeric Identifier 6784**] IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 PNEUMONIA, OTHER
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Shock: primary etiology appears to be cardiogenic, repeating SCVo2, has
   not been responsive to fluid challenege or diuretics so is in a tough
   position. Neo is suboptimal given inc afterload but other agents led to
   dysryhmias. Will repeat SCVO2 wena Neo to MAP 65, tred lactate and
   mixed venous.
   Transaminitis: primary DDx appears to be shock liver, was hypotensive
   and now on Neo, will get RUQ US with dopplers given Afib Takasubous,
   also send infectious serologies, no obvious ingestions
 hold all pot
   hepatotoxic agents
   Repeat this afternoon with bili and hemolysis labs
   ARF: stable, remains oliguric, renally dose all meds, d/c Vanco follow
   level in AM, Appreciate renal input
 will check renal US w dopplers
   Anemia: some blood loss with line pull and phlebotomy, trend.
   Ongoing issues as per Housestaff as above
   ICU Care
   Nutrition: encourage pos
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-7-14**] 10:45 PM
   Multi Lumen - [**2201-7-18**] 03:08 AM
   Prophylaxis:
   DVT: holding heparin,
   Stress ulcer: PPI
   Communication: updated yesterday
 need to update again today re liver
   issues
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2201-07-19 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Weaned off neo. Pressures 110/60.
   - Cards: Likely distributive shock from shock liver. consider IVF and
   if Na drops consider Tovaptin (holds onto salt but wastes water). Keep
   CVP >10. TTE on Monday to re-eval cardiomyopathy.
   - Renal: Might be contrast-nephropathy. Hold IV lasix. Get u/s with
   dopplers. Renally dose meds. No indication for RRT yet. goal for
   hyponatremia 118-122. Use hypertonic saline as needed to get there.
   - Central Venous sat 53. Hct 23. Transfused 1 units with f/u hct 26
   with SVO2 56 so received second unit pRBCs.
   - Transaminitis in 10K range. ABD U/S:  Normal hepatic echotexture
   without focal lesion. Small amount of ascites and bilateral pleural
   effusions partially visualized. Both kidneys normal in size without
   hydronephrosis. Limited Doppler evaluation due to difficulties with
   positioning and patient's ability to hold her breath. Portal veins
   appear grossly patent. CMV and Hep panels sent.
   - Stopped amio abd AF recurred at ~9pm. Started low dose beta blocker
   as pressures stable.
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Pletal (Oral) (Cilostazol)
   Unknown;
   Biaxin (Oral) (Clarithromycin)
   Unknown;
   [**Doctor First Name 1506**] (Oral) (Fexofenadine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2201-7-16**] 10:00 AM
   Vancomycin - [**2201-7-17**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2201-7-18**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-19**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 76 (68 - 119) bpm
   BP: 111/54(68) {83/32(47) - 140/68(85)} mmHg
   RR: 27 (14 - 34) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (9 - 11)mmHg
   Mixed Venous O2% Sat: 56 - 56
                                Total In:
                                                                  1,320 mL
                                                                    346 mL
   PO:
                                                                    100 mL
                                TF:
   IVF:
                                                                    808 mL
                                                                     58 mL
   Blood products:
                                                                    413 mL
                                                                    288 mL
   Total out:
                                                                    310 mL
                                                                     15 mL
   Urine:
                                                                    310 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,010 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   11.6 g/dL
   106 mg/dL
   2.2 mg/dL
   19 mEq/L
   4.6 mEq/L
   43 mg/dL
   97 mEq/L
   128 mEq/L
   34.0 %
   24.5 K/uL
        [image002.jpg]
                             [**2201-7-15**]  04:05 PM
                             [**2201-7-16**]  03:06 AM
                             [**2201-7-16**]  12:19 PM
                             [**2201-7-17**]  03:57 AM
                             [**2201-7-17**]  05:00 PM
                             [**2201-7-18**]  12:21 AM
                             [**2201-7-18**]  03:09 AM
                             [**2201-7-18**]  03:38 PM
                             [**2201-7-18**]  09:37 PM
                             [**2201-7-19**]  04:09 AM
   WBC
   20.8
   14.8
   23.1
   21.2
   24.5
   Hct
   24.1
   27.0
   25.5
   24.5
   25.0
   23.0
   21.0
   26.4
   34.0
   Plt
   648
   645
   363
   259
   206
   Cr
   0.7
   0.9
   1.4
   1.7
   2.2
   TropT
   0.22
   Glucose
   108
   139
   119
   94
   106
   Other labs: PT / PTT / INR:30.6/52.5/3.1, CK / CKMB /
   Troponin-T:180/14/0.22, ALT / AST:6760/4894, Alk Phos / T Bili:172/2.0,
   Differential-Neuts:94.3 %, Lymph:1.7 %, Mono:3.7 %, Eos:0.2 %,
   Fibrinogen:321 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.6 g/dL,
   LDH:4220 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   83 yo F with critical hyponatremia, multifocal pna and takotsubos
   cardiomyopathy.
   #  Hyponatremia. Likely from a combination of pneumonia with SIADH and
   heart failure.
   - Appreciate Renal input; f/u recs
   - 3% saline now d/c
d as at goal of >120
   - TSH wnl, and cortisol appropriately elevated
   - holding home HCTZ
   - Q4H sodiums
   # Shock: With decreased CVsat and non-responsiveness to IVF likely
   cardiogenic. Now on Neo with increasing requirements during the day but
   decreasing overnight. Did not respond to lasix although has ARF likely
   from ATN from hypotension.
   - d/c amio given shock liver
   - hep gtt recommended by cards as high risk for clot given
   cardiomyopathy, but given coagulopathy we held heparin
   - Not responsive to IVF boluses and led to decreased Na so using
   pressors instead.
   - Attempt to wean pressors today as able
   - [**Month (only) 11**] try vasopressin
   - goal MAP of 65.
   # Transaminitis: Likely shock liver from hypotension.
   - d/c amio and other hepatotoxic meds.
   - send hepatitis viral studies
   - also has atypical appearing multifocal pna on CT and may have CMV/EBV
   - Monitor LFTs
   - Treat hypotension with pressors as above
   - RUQ U/S to ensure vessels patent
   # ARF: Oliguric and Cr trending up to 1.4. Likely from hypotension.
   - not responsive to 20mg IV lasix. Will attempt higher dose today and
   consider lasix gtt. If unable to produce urine and having volume
   overload issues or electrolyte imbalance may consider CVVH
   - appreciate renal recs
   - address hypotension/CHF as above
   # Mental Status Change: Likely multifactorial [**3-2**] to hepatic
   encephalopathy and ICU delirium. Doubt hyponatremia as contributor
   given that with lower sodiums she was mentating better.
   - Restraints PRN
   - Haldol PRN
   - Consider lactulose as she is not stooling
   # Leukocytosis: Previously neutrophil-predominant. Blood cultures
   pending.  Flu swab negative.  Urine culture negative.
   - Check Cdiff
   - culture if spikes
   - Consider bronch for atypical-looking multifocal pneumonia
   - Consider CMV/EBV as above for transaminitis
   - Continue broad spectrum abx coverage with vanc/zosyn although vanc
   level high today so no need for dose today
   # Systolic CHF-> likely Takutsubos. BNP 29K
   - Would benefit from beta blocker and ace inhibitor but will hold for
   now given hypotension and renal issues
   - Monitor on tele
   - Aspirin 325 daily and hep gtt for risk of clot
   - Cannot tolerate dopa/dobutamine as can cause LVOT obstruction with
   apical ballooning in takotsubos so on neo instead.
   - Appreciate cards recs. Will follow up with Dr. [**First Name (STitle) **] one month after
   d/c.
   # Hypoxia: CT Chest showed advanced multifocal pna and TTE showed
   takutsubos so likely multifactorial hypoxia. Now resolving.
   - VBG with lactate today
   - Consider bronch
   - Added atrovent
   - attempt to send Sputum cx
   - Wean O2 as possible
   - On vanc/unasyn (day [**4-4**]): Vanc level high this am so hold am dose.
   Check level tomorrow before dosing.
   # Anemia: Hct from 30->24->27->25.5->23 after fluid resuscitation.
   Likely dilutional
   - repeat hemolysis labs and coags
   - Guaiac stools as on heparin
   - Cycle hct daily
   - Transfuse for <21
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-7-14**] 10:45 PM
   Multi Lumen - [**2201-7-18**] 03:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-07-19 09:07:00 Physician Attending Progress Note
Chief Complaint: hypotension, renal failure, shock liver
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2201-7-18**] 11:18 AM
   of liver and kidneys
 EKG - At [**2201-7-18**] 11:00 PM
   Weaned off Neo
   Blood Tx x 2
   Renal US - normal
   Liver US- normal doppler
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Pletal (Oral) (Cilostazol)
   Unknown;
   Biaxin (Oral) (Clarithromycin)
   Unknown;
   [**Doctor First Name 1506**] (Oral) (Fexofenadine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2201-7-16**] 10:00 AM
   Vancomycin - [**2201-7-17**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2201-7-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-19**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96.1
   HR: 107 (68 - 119) bpm
   BP: 124/73(84) {83/32(47) - 131/73(84)} mmHg
   RR: 22 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 11 (11 - 11)mmHg
   Mixed Venous O2% Sat: 56 - 56
                                Total In:
                                                                  1,320 mL
                                                                    479 mL
   PO:
                                                                    100 mL
                                TF:
   IVF:
                                                                    808 mL
                                                                    191 mL
   Blood products:
                                                                    413 mL
                                                                    288 mL
   Total out:
                                                                    310 mL
                                                                     70 mL
   Urine:
                                                                    310 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,010 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   Gen: think elderly woman in NAD, more alert and conversant this AM but
   still confused
   CV: irreg irreg
   Chest: [**Month (only) 202**] BS bases, no wheeze
   Abd: soft no RUQ tenderness
   Ext: edema
   Neuro: conversant, but confused
   Labs / Radiology
   11.6 g/dL
   206 K/uL
   106 mg/dL
   2.2 mg/dL
   19 mEq/L
   4.6 mEq/L
   43 mg/dL
   97 mEq/L
   128 mEq/L
   34.0 %
   24.5 K/uL
        [image002.jpg]
                             [**2201-7-15**]  04:05 PM
                             [**2201-7-16**]  03:06 AM
                             [**2201-7-16**]  12:19 PM
                             [**2201-7-17**]  03:57 AM
                             [**2201-7-17**]  05:00 PM
                             [**2201-7-18**]  12:21 AM
                             [**2201-7-18**]  03:09 AM
                             [**2201-7-18**]  03:38 PM
                             [**2201-7-18**]  09:37 PM
                             [**2201-7-19**]  04:09 AM
   WBC
   20.8
   14.8
   23.1
   21.2
   24.5
   Hct
   24.1
   27.0
   25.5
   24.5
   25.0
   23.0
   21.0
   26.4
   34.0
   Plt
   648
   645
   363
   259
   206
   Cr
   0.7
   0.9
   1.4
   1.7
   2.2
   TropT
   0.22
   Glucose
   108
   139
   119
   94
   106
   Other labs: PT / PTT / INR:26.2/47.4/2.5, CK / CKMB /
   Troponin-T:180/14/0.22, ALT / AST:6250/4894, Alk Phos / T Bili:172/2.0,
   Differential-Neuts:94.3 %, Lymph:1.7 %, Mono:3.7 %, Eos:0.2 %,
   Fibrinogen:321 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.6 g/dL,
   LDH:4220 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 PNEUMONIA, OTHER
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   1. Shock: primary etiology appears to be cardiogenic, repeating SCVo2,
   had not been responsive to fluid challenege or diuretics so is in a
   tough position. We were able to wean off Neo yesterday with blood
   transfusion.  Repeat SVCo2 and trend. Hopefully she is having some
   recovery of contractility and forward flow with time or we hit optinal
   filling status after blood.
   2. Transaminitis: LFTS trending down slightly today. primary DDx
   appears to be shock liver, as was hypotensive and on Neo, RUQ US with
   dopplers normal, infectious serologies pending, no obvious ingestions
   holding all  hepatotoxic agents
   3. ARF: ATN and contrast induced likely, slow rise in Cr, remains
   oliguric, renally dose all meds, d/c Vanco follow level in AM,
   Appreciate renal input
   4. Afib: off Amio given transaminitis- starting bblocker now that BPs
   better
   4. Anemia: s/p transfusion trend
   5. Leukocytosis: trend, cultures neg to date, senidng C diff , pan cx
   if spikes
   Ongoing issues as per Housestaff as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-7-14**] 10:45 PM
   Multi Lumen - [**2201-7-18**] 03:08 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  w/ family
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2201-07-20 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2201-7-19**] 09:50 PM
 URINE CULTURE - At [**2201-7-20**] 01:30 AM
   - Uptitrated metop to 25mg tid
   - Vanc trough 30.2, dose by level
   - Leukocytosis increased with bandemia. Repeat still rising with 3
   bands. Blood cx, U/A and Ucx ordered. CXR in AM.
   - Cr cont to increase with decreased U/O. Thought to be fluid
   overloaded so not given IV fluids. Urine lytes ordered
   - Improved LFTs although TBili elevated
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Pletal (Oral) (Cilostazol)
   Unknown;
   Biaxin (Oral) (Clarithromycin)
   Unknown;
   [**Doctor First Name 1506**] (Oral) (Fexofenadine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2201-7-17**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2201-7-19**] 04:00 AM
   Ampicillin - [**2201-7-20**] 04:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-20**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.2
   HR: 58 (52 - 112) bpm
   BP: 112/58(71) {98/48(61) - 133/94(100)} mmHg
   RR: 18 (14 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 8 (4 - 284)mmHg
   Total In:
                                                                  1,207 mL
                                                                    169 mL
   PO:
                                                                    580 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    169 mL
   Blood products:
                                                                    288 mL
   Total out:
                                                                    154 mL
                                                                     49 mL
   Urine:
                                                                    154 mL
                                                                     49 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,053 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   GEN: NAD
   HEENT: NC/AT dry MM
   LUNGS: Decreased BS bilaterally with fine crackles at the bases
   HEART: RRR, no M/R/G
   ABD: Soft. BS+. NT/ND
   EXTREM: Tr edema b/l, radial pulses palpable b/l but pedal pulses
   difficult to palpate
   NEURO: A+OX1-2 but conversant
   Labs / Radiology
   147 K/uL
   12.0 g/dL
   128 mg/dL
   3.1 mg/dL
   18 mEq/L
   4.5 mEq/L
   56 mg/dL
   98 mEq/L
   128 mEq/L
   33.2 %
   25.7 K/uL
        [image002.jpg]
                             [**2201-7-16**]  12:19 PM
                             [**2201-7-17**]  03:57 AM
                             [**2201-7-17**]  05:00 PM
                             [**2201-7-18**]  12:21 AM
                             [**2201-7-18**]  03:09 AM
                             [**2201-7-18**]  03:38 PM
                             [**2201-7-18**]  09:37 PM
                             [**2201-7-19**]  04:09 AM
                             [**2201-7-19**]  03:57 PM
                             [**2201-7-20**]  03:06 AM
   WBC
   14.8
   23.1
   21.2
   24.5
   26.1
   25.7
   Hct
   27.0
   25.5
   24.5
   25.0
   23.0
   21.0
   26.4
   34.0
   31.9
   33.2
   Plt
   645
   363
   259
   [**Telephone/Fax (3) 6822**]
   Cr
   0.9
   1.4
   1.7
   2.2
   2.8
   3.1
   Glucose
   139
   119
   94
   106
   139
   128
   Differential-Neuts:81.0 %, Band:1.0 %, Lymph:4.0 %, Mono:4.0 %, Eos:1.0
   %, Fibrinogen:321 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.6 g/dL,
   LDH:4220 IU/L,
   Ca: 8.0 Mg: 2.2 P: 4.3
   ALT: 4103
   AP: 185
   Tbili: 1.5
   Alb: 2.6
   AST: 1215
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   PT: 22.1
   PTT: 42.8
   INR: 2.1
   Other Urine Chemistry:
   UreaN:311
   Creat:91
   Na:<10
   Blood cx, urine cx, C diff, and CMV VL and serologies all pending.
   CXR: layering effusions per my read
   Assessment and Plan
   83 yo F with critical hyponatremia, multifocal pna and takotsubos
   cardiomyopathy.
   # ARF: Oliguric and Cr trending up again today. Likely from hypotension
   vs contrast-nephropathy from CTA. Renal U/S nl. No urgent need for HD.
   - Appreciate renal recs
   - Address hypotension/CHF as above
   - Renally dose meds; amp/sulb dose decreased to q12h
   - If hyperkalemic or fluid overloaded may need to have CVVH
   #  Hyponatremia. Likely from a combination of pneumonia with SIADH and
   heart failure. TSH wnl, and cortisol appropriately elevated.
   - Appreciate Renal input; f/u recs
   - Holding home HCTZ
   - [**Hospital1 **] lytes
   - Cont fluid restriction
   # Shock: With decreased CVsat and non-responsiveness to IVF likely
   cardiogenic in setting of Takutsobos. Now off pressors X >36hours (off
   since [**7-18**]). Fluid overloaded on exam.
   - Would not give IVF as not responsive in past and lowers sodium
   - Would also hold lasix as not responsive to it and ARF
   - Check Lactate, SvO2
 pull PICC
   # Transaminitis: Likely shock liver from hypotension. Resolving today.
   - F/u pending hepatitis viral studies
   - Monitor LFTs [**Hospital1 **]
   - Treat hypotension with pressors as above
   # Mental Status Change: Not completely oriented but very conversant.
   Likely multifactorial [**3-2**] to hepatic encephalopathy and ICU delirium.
   Doubt hyponatremia contributor any longer given that she was mentating
   better with lower sodiums.
   - Restraints PRN
   - Haldol PRN
   - Still has not stooled despite lactulose. Will increase dose today.
   # Leukocytosis: Previously neutrophil-predominant. Pt afebrile but is
   hypothermic. Blood cultures neg to date.  Flu swab negative.  Urine
   culture negative.
   - Repeat CBC this am as all lab values elevated and likely spurious;
   could consider Bcx and Ucx if still elevated
   - C. diff sent; CIS
   - Continue D4/7 broad spectrum abx coverage with vanc (dosed by levels)
   and unasyn
   # Systolic CHF: Likely [**3-2**] Takutsubos. BNP 29K
   - Would benefit from and ACE inhibitor but will hold for now given ARF
   - Started low dose beta blocker yesterday with good effect (HRs down to
   60s)
   - Monitor on tele
   - Aspirin 325 daily
   - Cards recommended hep gtt  but not given in setting of coagulopathy.
   - Cannot tolerate dopa/dobutamine as can cause LVOT obstruction with
   apical ballooning in takotsubos so on neo instead.
   - Appreciate cards recs. Will follow up with Dr. [**First Name (STitle) **] one month after
   d/c.
   # Afib: Better rate controlled with beta blocker but still tachycardic
   - Uptitrate metoprolol today
   - Cannot give amio due to elevated LFTs
   # Thrombocytopneia: Very elevated on admit; may have initially
   represented stress response. Now cont to trend down; baseline unclear.
   Off heparin since [**7-17**]. ?Medication induced.
   - Obtain baseline from PCP in [**State 2976**]
   # Anemia: Hct from 30->24->27->25.5->23 after fluid resuscitation.
   Received a total of 2 U PRBC with appropriate bump
   - Hemolysis labs neg
   - Guaiac stools
   - Cycle hct [**Hospital1 **]
   - Transfuse for <30 given end organ ischemia (shock liver)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-7-14**] 10:45 PM
   Multi Lumen - [**2201-7-18**] 03:08 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2201-07-20 10:17:00 Physician Attending Progress Note
Chief Complaint: hypotension, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2201-7-19**] 09:50 PM
 URINE CULTURE - At [**2201-7-20**] 01:30 AM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unknown;
   Pletal (Oral) (Cilostazol)
   Unknown;
   Biaxin (Oral) (Clarithromycin)
   Unknown;
   [**Doctor First Name 1506**] (Oral) (Fexofenadine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2201-7-19**] 04:00 AM
   Ampicillin - [**2201-7-20**] 04:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-20**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 60 (52 - 112) bpm
   BP: 126/61(77) {98/48(61) - 133/94(100)} mmHg
   RR: 18 (15 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (4 - 284)mmHg
   Total In:
                                                                  1,208 mL
                                                                    262 mL
   PO:
                                                                    580 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    202 mL
   Blood products:
                                                                    288 mL
   Total out:
                                                                    154 mL
                                                                     50 mL
   Urine:
                                                                    154 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,054 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   Gen: think elderly woman in NAD,  alert and conversant this AM but
   still confused
   CV: irreg irreg
   Chest: [**Month (only) 202**] BS bases, no wheeze
   Abd: soft no RUQ tenderness
   Ext: edema
   Neuro: conversant, but confused
 thinks nurse going to school
   Labs / Radiology
   12.0 g/dL
   147 K/uL
   128 mg/dL
   3.1 mg/dL
   18 mEq/L
   4.5 mEq/L
   56 mg/dL
   98 mEq/L
   128 mEq/L
   33.2 %
   25.7 K/uL
        [image002.jpg]
                             [**2201-7-16**]  12:19 PM
                             [**2201-7-17**]  03:57 AM
                             [**2201-7-17**]  05:00 PM
                             [**2201-7-18**]  12:21 AM
                             [**2201-7-18**]  03:09 AM
                             [**2201-7-18**]  03:38 PM
                             [**2201-7-18**]  09:37 PM
                             [**2201-7-19**]  04:09 AM
                             [**2201-7-19**]  03:57 PM
                             [**2201-7-20**]  03:06 AM
   WBC
   14.8
   23.1
   21.2
   24.5
   26.1
   25.7
   Hct
   27.0
   25.5
   24.5
   25.0
   23.0
   21.0
   26.4
   34.0
   31.9
   33.2
   Plt
   645
   363
   259
   [**Telephone/Fax (3) 6822**]
   Cr
   0.9
   1.4
   1.7
   2.2
   2.8
   3.1
   Glucose
   139
   119
   94
   106
   139
   128
   Other labs: PT / PTT / INR:22.1/42.8/2.1, CK / CKMB /
   Troponin-T:180/14/0.22, ALT / AST:4103/1215, Alk Phos / T Bili:185/1.5,
   Differential-Neuts:81.0 %, Band:1.0 %, Lymph:4.0 %, Mono:4.0 %, Eos:1.0
   %, Fibrinogen:321 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.6 g/dL,
   LDH:4220 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 PNEUMONIA, OTHER
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   1. Shock: primary etiology appears to be cardiogenic, with low EF and
   low SCVo2. However she has been able to come over pressors. Hopefully
   she is having some recovery of contractility and forward flow with time
   or we hit optimal filling status. Will repeat ScVo2
   2. Transaminitis: LFTS trending down slightly today. primary DDx
   appears to be shock liverno obvious ingestions
 holding all
   hepatotoxic agents
   3. ARF: ATN and contrast induced likely, slow rise in Cr, remains
   oliguric, renally dose all meds, holding Vanco Appreciate renal input
   no acute indication for HD but volume overload may eventually be an
   issue
   4. Afib: off Amio given transaminitis- starting bblocker now that BPs
   better
   5. Anemia: s/p transfusion trend stable
   6. Thrombocytopenia: dilution versus HITT. Try get old records, will
   not send HITT now, but no Heparin products. Long term will need to make
   decision about anticoag.
   7. Leukocytosis: trend, cultures neg to date, sending C diff , pan cx
   if spikes
   Ongoing issues as per Housestaff as above
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-7-14**] 10:45 PM
   Multi Lumen - [**2201-7-18**] 03:08 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with family
   Code status: Full code
   Disposition : call out to floor
   Total time spent: 35